US07576094B2
To a solution of 5,7,8-trimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-4,6-diol (290 mg) in acetonitrle (2 mL) was added 2-propanethiol (0.5 mL) and concentrated HCl water solution (5 drops). The solution was stirred at room temperature for 7 hours. The solution was neutralized using sodium bicarbonate water solution to pH about 7. Ethyl acetate was added, washed with water and brine. Evaporation and chromatography (silica gel, hexane-ethyl acetate 0 to 4%) gave 140 mg of 4-(isopropylthio)-5,7,8-trimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol

reactant | 5,7,8-trimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-4,6-diol | 290 mg | CC1=C2C(CC3(CCC3)OC2=C(C(=C1O)C)C)O | C15H20O3
reactant | 2-propanethiol | 0.5 mL | CC(C)S | C3H8S
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
catalyst | HCl water | 5 drops | O.Cl
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(isopropylthio)-5,7,8-trimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | 140 mg | C(C)(C)SC1CC2(CCC2)OC2=C(C(=C(C(=C12)C)O)C)C | C18H26O2S
